US07279469B2
A solution of impure (2-chloro-4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester (2.84 g) in dichloromethane (30 mL) was treated with trifluoroacetic acid (3.5 mL), stirred at room temperature for 24 h and evaporated. The residue was dissolved in ethyl acetate, was washed with 1N NaOH, water, and brine, was dried (sodium sulfate) and evaporated. Purification by flash chromatography (SiO2) eluted with 35:65 ethyl acetate:hexanes provided 2-chloro-4-morpholin-4-yl-phenylamine (0.77 g, 40% yield) as an off-white solid. 1H-NMR (CDCl3, 500 MHz) 6.92 (br, 1H), 6.77 (br, 2H), 3.89 (m, 6H), 3.05 (m, 4H) ppm; MS (FIA) 213.1 (M+H); HPLC (Method A) 1.975 min.

reactant | (2-chloro-4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester | 2.84 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1CCOCC1)Cl)=O | C15H21ClN2O3
reactant | trifluoroacetic acid | 3.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-chloro-4-morpholin-4-yl-phenylamine | 0.77 g, 40% yield | ClC1=C(C=CC(=C1)N1CCOCC1)N | C10H13ClN2O
